US07262182B2
Methyl 2-mercapto-acetate, 2.6 mL (28.5 mmol), was dissolved in 10 mL dry methanol, and sodium hydroxide, 2.24 mL of 25 M solution (56 mmol), and 10 mL methanol were added, followed by 2-(4-bromobenzene-sulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate, 26 mL of 1 M solution in toluene (26 mmol) with stirring, and a further 20 mL methanol. A white precipitate formed immediately, and a further 30 mL methanol was added to enable easy stirring overnight. The solid was filtered, and an additional 2 mL of the sodium hydroxide solution added to the filtrate and stirred for 2 hours. The basic solution was washed with ethyl acetate, then hydrochloric acid added until the solution became cloudy. This solution was extracted three times with ethyl acetate, and the combined ethyl acetate extracts backwashed with water, dilute hydrochloric acid, water, and brine, and then dried over Na2SO4 and concentrated, to give 7.31 g of 2-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]acetic acid as an oil that solidified on standing. The identity was verified by 1H NMR.

reactant | Methyl 2-mercapto-acetate | SCC(=O)OC | C3H6O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(4-bromobenzene-sulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate | ClCCN(P(OCCOS(=O)(=O)C1=CC=C(C=C1)Br)(=O)N(CCCl)CCCl)CCCl | C16H24BrCl4N2O5PS
reactant | toluene | 26 mmol | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 2-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]acetic acid | 7.31 g | ClCCN(CCCl)P(=O)(OCCSCC(=O)O)N(CCCl)CCCl | C12H23Cl4N2O4PS
